US07169817B2
Step B: 2-Amino-2-[2-(4′-hexylbiphenyl-4-yl)-ethyl]propane-1,3-diol
Acetic acid 2-acetoxymethyl-2-acetylamino-4-(4′-hexyl-biphenyl-4-yl)-butyl ester (0.2 mmol) is dissolved in THF (1 mL) and treated with 2 N LiOH aqueous solution (0.5 mL). The resulting mixture is stirred at reflux for 1 h and diluted with H2O (10 mL). It is then extracted with EtOAc (3×5 mL) and the combined organic phase is washed with brine and dried over Na2SO4. After concentrating, the crude product is purified with LC-MS to give the desired product as a white solid. MS: (ES+): 356.2 (M+1)+.

reactant | Acetic acid 2-acetoxymethyl-2-acetylamino-4-(4′-hexyl-biphenyl-4-yl)-butyl ester | 0.2 mmol | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCC)NC(C)=O | C29H39NO5
reactant | LiOH | 2 N, 0.5 mL | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | 2-Amino-2-[2-(4′-hexylbiphenyl-4-yl)-ethyl]propane-1,3-diol | NC(CO)(CO)CCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCC | C23H33NO2
